US04851422
In 20 ml of dichloromethane was suspended 1.00 g of 3-bromo-2-oxoglutaric acid. To the suspension was added 0.33 ml of ethane thiol under ice-cooling and stirring, to which was added 1.83 ml of triethylamine. The reaction solution was stirred at room temperature for 3 hours, then the solvent was evaporated off. The residue was shaken with a mixture of ethyl acetate and 1N-HCl. The ethyl acetate layer was taken, washed with water and dried (Na2SO4). The solvent was evaporated off to give 0.82 g of 3-ethylthio-2-oxoglutaric acid as pale yellow oil.

reactant | 3-bromo-2-oxoglutaric acid | 1.00 g | BrC(C(C(=O)O)=O)CC(=O)O | C5H5BrO5
reactant | ethane thiol | 0.33 ml | C(C)S | C2H6S
reactant | triethylamine | 1.83 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-ethylthio-2-oxoglutaric acid | 0.82 g | C(C)SC(C(C(=O)O)=O)CC(=O)O | C7H10O5S
